US08217069B2
2-Fluoro-5-(2,3,4,5-tetrahydro-1H-1-benzoazepin-1-ylsulfonyl)aniline
To a solution of 2,3,4,5-tetrahydro-1H-benzo[B]azepine (0.37 g), triethylamine (0.35 mL) and 4-dimethylaminopyridine (26 mg) in methylene chloride (8 mL) was added 4-fluoro-3-nitrobenzenesulfonyl chloride (0.5 g), and the mixture was stirred at room temperature for 5 hours. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with 1 mol/L hydrochloric acid, water and brine successively, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was dissolved in tetrahydrofuran (7 mL). To the solution were added methanol (7 mL) and nickel(II) bromide (23 mg). To the mixture was added sodium borohydride (0.24 g) under ice-cooling, and the mixture was stirred at the same temperature for 30 minutes, and then stirred at room temperature for 30 minutes. To the reaction mixture was added a saturated aqueous sodium hydrogen carbonate solution, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane−n-hexane/ethyl acetate=1/1) to give the title compound (0.26 g).

reactant | 2,3,4,5-tetrahydro-1H-benzo[B]azepine | 0.37 g | N1C2=C(CCCC1)C=CC=C2 | C10H13N
reactant | triethylamine | 0.35 mL | C(C)N(CC)CC | C6H15N
reactant | 4-fluoro-3-nitrobenzenesulfonyl chloride | 0.5 g | FC1=C(C=C(C=C1)S(=O)(=O)Cl)[N+](=O)[O-] | C6H3ClFNO4S
reactant | water | O | H2O
catalyst | 4-dimethylaminopyridine | 26 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 8 mL | C(Cl)Cl | CH2Cl2
product | 2-Fluoro-5-(2,3,4,5-tetrahydro-1H-1-benzoazepin-1-ylsulfonyl)aniline | 0.26 g | FC1=C(N)C=C(C=C1)S(=O)(=O)N1CCCCC2=C1C=CC=C2 | C16H17FN2O2S
